US04703052
2-Benzyl-6-formyl-1,1-dioxothiachroman
A solution of 254 mg (1.0 mmole) 6-(1,3-dioxolan-2-yl)-1,1-dioxothiachroman in 10 ml tetrahydrofuran was cooled to 0° C. and 1.15 mmole of 2.3M n-butyllithium was added dropwise. The resulting red solution was stirred for 30 minutes at 0° C., 137 microliters (1.15 mmole) benzyl bromide was added and stirring continued at 0° C. for one hour, then at room temperature for two hours. The reaction was quenched by addition of citric acid. The mixture was taken up in ethyl ether, washed with brine, dried (MgSO4) and the solvents evaporated. The residue was taken up in 15 ml tetrahydrofuran, 10 ml 3.5% aqueous perchloric acid added and the mixture stirred overnight. Extraction with ethyl ether, washing with brine, drying (MgSO4) and evaporation of solvent gave the title compound as an oil, Rf 0.6 on silica gel TLC (9:1 methylene chloride/ethyl ether).

reactant | 6-(1,3-dioxolan-2-yl)-1,1-dioxothiachroman | 1.0 mmole, 254 mg | O1C(OCC1)C=1C=C2CCCS(C2=CC1)(=O)=O | C12H14O4S
reactant | n-butyllithium | 1.15 mmole, 2.3M | C(CCC)[Li]
reactant | benzyl bromide | 1.15 mmole, 137 microliters | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-6-formyl-1,1-dioxothiachroman | C(C1=CC=CC=C1)C1S(C2=CC=C(C=C2CC1)C=O)(=O)=O | C17H16O3S
